US09120779B2
To a solution of (S)-1-((R)-2-amino-2-phenylacetyl)-N-(3-(4-(2-((S)-1-((R)-2-amino-2-phenylacetyl)pyrrolidin-2-yl)-1H-imidazol-4-yl)phenyl)cyclobutyl)pyrrolidine-2-carboxamide (80 mg, 0.124 mmol) in dichloromethane (20 mL), cyclopropyl carboxylic acid (22 mg, 0.26 mmol), DIPEA (0.5 mL) and HATU (94 mg, 0.26 mmol) were added at rt. After stirring overnight, the reaction was washed with brine and H2O, dried with Na2SO4. After removal of the solvent, the crude product was purified by silica gel column chromatography (DCM/MeOH=10/1 (v/v)) to afford (S)-1-((R)-2-(cyclopropanecarboxamido)-2-phenylacetyl)-N-(3-(4-(2-((S)-1-((R)-2-(cyclopropanecarboxamido)-2-phenylacetyl)pyrrolidin-2-yl)-1H-imidazol-4-yl)phenyl)cyclobutyl)pyrrolidine-2-carboxamide (A14) (25 mg).

reactant | (S)-1-((R)-2-amino-2-phenylacetyl)-N-(3-(4-(2-((S)-1-((R)-2-amino-2-phenylacetyl)pyrrolidin-2-yl)-1H-imidazol-4-yl)phenyl)cyclobutyl)pyrrolidine-2-carboxamide | 0.124 mmol, 80 mg | N[C@@H](C(=O)N1[C@@H](CCC1)C(=O)NC1CC(C1)C1=CC=C(C=C1)C=1N=C(NC1)[C@H]1N(CCC1)C([C@@H](C1=CC=CC=C1)N)=O)C1=CC=CC=C1 | C38H43N7O3
reactant | cyclopropyl carboxylic acid | 0.26 mmol, 22 mg | C1(CC1)C(=O)O | C4H6O2
reactant | DIPEA | 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.26 mmol, 94 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (S)-1-((R)-2-(cyclopropanecarboxamido)-2-phenylacetyl)-N-(3-(4-(2-((S)-1-((R)-2-(cyclopropanecarboxamido)-2-phenylacetyl)pyrrolidin-2-yl)-1H-imidazol-4-yl)phenyl)cyclobutyl)pyrrolidine-2-carboxamide | 25 mg | C1(CC1)C(=O)N[C@@H](C(=O)N1[C@@H](CCC1)C(=O)NC1CC(C1)C1=CC=C(C=C1)C=1N=C(NC1)[C@H]1N(CCC1)C([C@@H](C1=CC=CC=C1)NC(=O)C1CC1)=O)C1=CC=CC=C1 | C46H51N7O5
